US07417062B2
Step 2: 7-Methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid cinnolin-3-ylmethyl-((S)-1-cyclobutyl-pyrrolidin-2-ylmethyl)-amide.
Experimental conditions analogous to Example 1, from 172 mg (0.31 mmol) of (S)-2-{[cinnolin-3-ylmethyl-(7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester and 3 mL 10% trifluoroacetic acid/dichloromethane. The crude deprotected material was submitted to reductive amination reaction in 5 mL dichloromethane using 108 mg (1.55 mmol) of cyclobutanone and 329 mg (1.55 mmol) sodium triacetoxyborohydride. The reaction mixture was purified using flash chromatography elution with 0-10% methanol in dichloromethane, gave 47 mg of pale yellow solid as the free base. LC-MSD, m/z for C29H34N4O4 [M+H]+: 503.7. 1H NMR (400 MHz, CDCl3): δ 1.6-2.5 (m, 16 H), 2.8-2.9 (m, 1 H), 3.5-3.8 (m, 3 H), 3.8 (s, 3 H), 3.9-4.0 (m, 2 H), 5.1-5.3 (m, 2 H), 6.8 (bs, 1 H), 7.2 (bs, 1 H), 7.7-7.9 (m, 4 H), 8.4-8.5 (m, 1 H).

reactant | (S)-2-{[cinnolin-3-ylmethyl-(7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.31 mmol, 172 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CN(C(=O)C1=CC2=C(OC(O2)(C)C)C(=C1)OC)CC=1N=NC2=CC=CC=C2C1 | C30H36N4O6
reactant | trifluoroacetic acid dichloromethane | 3 mL | FC(C(=O)O)(F)F.ClCCl
reactant | dichloromethane | 1.55 mmol, 5 mL, 108 mg | ClCCl | CH2Cl2
reactant | cyclobutanone | C1(CCC1)=O | C4H6O
reactant | sodium triacetoxyborohydride | 1.55 mmol, 329 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 7-Methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid cinnolin-3-ylmethyl-((S)-1-cyclobutyl-pyrrolidin-2-ylmethyl)-amide | 47 mg | N1=NC(=CC2=CC=CC=C12)CN(C(=O)C1=CC2=C(OC(O2)(C)C)C(=C1)OC)C[C@H]1N(CCC1)C1CCC1 | C29H34N4O4
